US05506244
L-Tyrosine (1.00 kg, 5.52 tool) is suspended in 2B anhydrous ethanol (5.0 L). Anhydrous hydrogen chloride is introduced into this suspension initially at ambient temperature for 2.5 hours at which time the temperature rises to 56° C. The resulting clear solution is refluxed for 5 hours with continued introduction of a slow stream of hydrogen chloride. The solution is allowed to cool overnight and completion of precipitation of product is induced by the addition of t-butyl methyl ether (12.0 L). The crystals are collected by filtration and the filtrate is washed with more t-butyl methyl ether (2×500 mL). The solid is first air-dried and then vacuum-dried for 36 hours (40° C., 3 Torr) to yield L-tyrosine ethyl ester monohydrochloride, m.p. 165°-166° C.

reactant | L-Tyrosine | 1.00 kg | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 5.0 L | C(C)O | C2H6O
product | L-tyrosine ethyl ester monohydrochloride | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | InChI=1S/C11H15NO3.ClH/c1-2-15-11(14)10(12)7-8-3-5-9(13)6-4-8;/h3-6,10,13H,2,7,12H2,1H3;1H/t10-;/m0./s1
